US07919628B2
To a solution of 0.91 g (6-bromo-pyridin-3-yl)-methanol in 10 mL of dichloromethane was added 1.88 g of triphenyl phosphine and 2.38 g of carbon tetrabromide. This mixture was stirred at room temperature for 3 hours. It was then concentrated on silica gel, eluted with heptane/ethyl acetate to provide 0.91 g of 2-bromo-5-bromomethyl-pyridine.

reactant | (6-bromo-pyridin-3-yl)-methanol | 0.91 g | BrC1=CC=C(C=N1)CO | C6H6BrNO
reactant | triphenyl phosphine | 1.88 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrabromide | 2.38 g | C(Br)(Br)(Br)Br | CBr4
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 2-bromo-5-bromomethyl-pyridine | 0.91 g | BrC1=NC=C(C=C1)CBr | C6H5Br2N
